US04695575
A mixture of 8 parts of ethyl 1-(phenylmethyl)-4-piperidineacetate hydrochloride and 80 parts of a dilute hydrochloric acid solution was stirred and refluxed for 4 hours. After cooling, the reaction mixture was evaporated. The residue was washed with 2-propanone and the solvent was evaporated again. The solid residue was washed with 2-propanone, filtered off and dried, yielding 6 parts of 1-(phenylmethyl)-4-piperidineacetic acid hydrochloride; mp. 137°-145° C. (2)

reactant | ethyl 1-(phenylmethyl)-4-piperidineacetate hydrochloride | Cl.C1(=CC=CC=C1)CN1CCC(CC1)CC(=O)OCC
reactant | hydrochloric acid | Cl | ClH
product | 1-(phenylmethyl)-4-piperidineacetic acid hydrochloride | Cl.C1(=CC=CC=C1)CN1CCC(CC1)CC(=O)O | InChI=1S/C14H19NO2.ClH/c16-14(17)10-12-6-8-15(9-7-12)11-13-4-2-1-3-5-13;/h1-5,12H,6-11H2,(H,16,17);1H
